US09388189B2
a) 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-6-amine
4-Bromo-1H-indol-6-amine (300 mg, 1.42 mmol) was dissolved in 3.4 mL tert-butanol and 308 μl water. Bis(pinacolato)diboron (348 mg, 1.37 mmol), 1,1′-bis(diphenylphosphino)ferrocene (39 mg, 0.07 mmol) and potassium acetate (417 mg, 4.25 mmol) were added and the mixture was submitted to three vacuum-argon cycles. 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (58 mg, 0.07 mmol) was added under argon conditions. The mixture was stirred at 90° C. overnight. The reaction was poured into a 4% aqueous solution of sodium bicarbonate and extracted twice with ethyl acetate. The organics were combined and washed with water, brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 20%, dichloromethane diethyl ether) to give 110 mg (30% yield) of the title compound.

reactant | 4-Bromo-1H-indol-6-amine | 1.42 mmol, 300 mg | BrC1=C2C=CNC2=CC(=C1)N | C8H7BrN2
reactant | Bis(pinacolato)diboron | 1.37 mmol, 348 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.25 mmol, 417 mg | C(C)(=O)[O-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tert-butanol | 3.4 mL | C(C)(C)(C)O | C4H10O
solvent | water | 308 μl | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.07 mmol, 39 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-6-amine | 110 mg, 30% yield | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC(=C1)N)C | C14H19BN2O2
